US07230023B2
(4) 6-(Hydroxymethyl)-1(3H)-isobenzofuranone
p-Toluenesulfonic acid monohydrate (103.0 mg, 0.54 mmol) was added to a solution of 2,5-bis[(tetrahydropyran-2-yl)oxymethyl]benzoic acid (1.62 g, 4.64 mmol) obtained from Example 1-(3) in methanol (30 ml), and the mixture was stirred at room temperature for 2 hours. The resulting solution was concentrated under reduced pressure to afford a solid residue. This residue was subjected to chromatography on a silica gel (50 g) column (eluent; ethyl acetate:hexane=1:1˜1:0) to give the title compound (587.5 mg, 77% yield) as a colorless solid (mp. 107-108° C.).

reactant | p-Toluenesulfonic acid monohydrate | 0.54 mmol, 103.0 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 2,5-bis[(tetrahydropyran-2-yl)oxymethyl]benzoic acid | 4.64 mmol, 1.62 g | O1C(CCCC1)OCC1=C(C(=O)O)C=C(C=C1)COC1OCCCC1 | C19H26O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | methanol | 30 ml | CO | CH4O
product | 6-(Hydroxymethyl)-1(3H)-isobenzofuranone | 587.5 mg, 77% yield | OCC1=CC=C2COC(C2=C1)=O | C9H8O3
